US03937824
Preparation of 1-Chloro-1-(4-chlorophenyl)-2-(N,N-diethylcarbamoyloxy)-2-methoxyiminoethane
N-Methoxy-α-(4-chlorophenyl)-α-chloroacetamide (23.3 grams; 0.1 mole), benzene (100 ml), and triethylamine (12 grams; 0.12 mole) are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. N,N-Diethylcarbamoyl chloride (13.5 grams; 0.1 mole) dissolved in benzene (25 ml) is incrementally added to the reaction mixture, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 4 hours. After this time the reaction mixture is distilled to remove benzene and unreacted starting material thereby yielding the desired product 1-chloro-1-(4-chlorophenyl)-2-(N,N-diethylcarbamoyloxy)-2-methoxyiminoethane.

reactant | N-Methoxy-α-(4-chlorophenyl)-α-chloroacetamide | 0.1 mole, 23.3 grams | CONC(C(Cl)C1=CC=C(C=C1)Cl)=O | C9H9Cl2NO2
reactant | triethylamine | 0.12 mole, 12 grams | C(C)N(CC)CC | C6H15N
reactant | N,N-Diethylcarbamoyl chloride | 0.1 mole, 13.5 grams | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-1-(4-chlorophenyl)-2-(N,N-diethylcarbamoyloxy)-2-methoxyiminoethane | ClC(C(=NOC)OC(N(CC)CC)=O)C1=CC=C(C=C1)Cl | C14H18Cl2N2O3
